US07288556B2
Synthesis of 5-Phenylamino-[1,2,3]thiadiazole-4-carboxylic Acid Methylamide
To a solution of 2 M NH2CH3 in cyclohexane (2 mL) at −40° C. was added 0.8 mL of 2 M n-BuLi in cyclohexane under argon. A white precipitate was immediately observed. The mixture was stirred at −30° C. for 0.5 hours, and 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester (60 mg, 0.24 mmole) in 1 mL of cyclohexane was slowly added. Greenish solution was immediately obtained. The reaction was slowly warmed up to room temperature and TLC showed a total disappearance of the starting material. A mixture of 7 mL of saturated NH4Cl solution and 7 mL of EtOAc was added to the ice-cooled flask and the solution was stirred for 30 minutes. The aqueous layer was neutralized to pH ˜7 and then extracted with EtOAc. The organic layer was absorbed with silica gel, loaded to a 53 g silica gel column, and eluted with hexane:EtOAc=5:1. A 25 mg white powder was obtained (45%). 1H NMR (ppm, DMSO-d6): 11.00 (br. s, 1H), 8.92 (br. q, 1H), 7.46 (t, 2H), 7.34 (d, 2H), 7.20 (t, 1H), 2.85 (d, 3H).

reactant | NH2CH3 | 2 M | NC | CH5N
reactant | n-BuLi | 2 M, 0.8 mL | [Li]CCCC
reactant | 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid ethyl ester | 0.24 mmole, 60 mg | C(C)OC(=O)C=1N=NSC1NC1=CC=CC=C1 | C11H11N3O2S
reactant | NH4Cl | 7 mL | [NH4+].[Cl-]
solvent | cyclohexane | 2 mL | C1CCCCC1 | C6H12
solvent | cyclohexane | 1 mL | C1CCCCC1 | C6H12
solvent | EtOAc | 7 mL | CCOC(=O)C | C4H8O2
product | 5-Phenylamino-[1,2,3]thiadiazole-4-carboxylic Acid Methylamide | 25 mg | CNC(=O)C=1N=NSC1NC1=CC=CC=C1 | C10H10N4OS
